US06992087B2
Preparation of 3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.65, 5.21, 4.64, 4.53, 4.07, 3.81-3.61, 3.40, 3.22, 3.14, 2.82, 2.62, 1.33-1.25; IR (liq.) 3437, 2969 (s), 2936 (s), 2874, 2348 (w), 1580 (s), 1546 (s), 1498 (s), 1464, 1449 (s), 1395, 1162, 1129, 1043 (s), 870, cm−1; HRMS (FAB) calcd for C14H23FN4O+H 283.1934, found 283.1928.

reactant | 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C20H26Cl2N4O
reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OCC1=CC=CC=C1 | C22H29FN4O3
product | 3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CNC[C@@H]1OCCF | C14H23FN4O
